US06699879B1
4-Hydroxy-5,8-difluoro-2-methylquinoline
A mixture of 2,5-difluoroaniline (10.0 g), ethyl acetoaceate (9.85 ml) and polyphosphoric acid (62 ml) were heated with stirring at 180° C. for 5 h. The mixture was cooled to room temperature and neutralised with dilute NH4OH/ice. The title compound precipitated and was separated by filtration to give compound identical spectroscopically with a sample prepared by the two stage process described above.

reactant | 2,5-difluoroaniline | 10.0 g | FC1=C(N)C=C(C=C1)F | C6H5F2N
reactant | ethyl acetoaceate | 9.85 ml | C(CC(=O)C)(=O)OCC | C6H10O3
product | 4-Hydroxy-5,8-difluoro-2-methylquinoline | OC1=CC(=NC2=C(C=CC(=C12)F)F)C | C10H7F2NO
